US08314094B2
1) Synthesis of 4-fluoro-N-{[1-(4-methoxybenzyl)-2-oxo-6-(2-oxopyrrolidin-1-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide
A mixed solution of N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide (100 mg, 0.176 mmol), tris(dibenzylideneacetone)dipalladium (8.0 mg, 0.008 mmol), xantphos (15.2 mg, 0.024 mmol), cesium carbonate (57.4 mg, 0.176 mmol) and 2-pyrrolidinone (26.8 μL, 0.352 mmol) in dioxane (0.5 mL) was stirred at 120° C. for 30 minutes under microwave irradiation. After the reaction solution was left to cool, the solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1), whereby the objective compound (69 mg, 69%) was obtained as a yellow oily substance.

reactant | N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | 0.176 mmol, 100 mg | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C25H19BrF4N2O4
reactant | xantphos | 0.024 mmol, 15.2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.176 mmol, 57.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-pyrrolidinone | 0.352 mmol, 26.8 μL | N1C(CCC1)=O | C4H7NO
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 8.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-fluoro-N-{[1-(4-methoxybenzyl)-2-oxo-6-(2-oxopyrrolidin-1-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide | FC1=CC=C(C(=O)NCC2(OC(N(C3=C2C=C(C=C3)N3C(CCC3)=O)CC3=CC=C(C=C3)OC)=O)C(F)(F)F)C=C1 | C29H25F4N3O5
